US06358948B1
4-(2,2,4,4-Tetramethyl-1,4-dihydro-2H-3,1-benzoxazin-6yl)thiophene-2-carbonitrile
Prepared using the coupling procedure for Example 13 starting with 6-bromo-2,2,4,4-tetramethyl-1,4-dihydro-2H-3,1-benzoxazine and 4-bromo-2-cyanothiophene. An amorphous orange solid: 1H-NMR (DMSO-d6) δ 8.4 (d, 1H, J=1.69 Hz), 8.14 (d, 1H, J=1.69 Hz), 7.49 (d, 1H, J=2.20 Hz), 7.38 (dd, 1H, J=8.43, 2.02 Hz), 6.61 (d, 1H, J=8.43 Hz), 6.26 (s, 1H), 1.49 (s, 6H), 1.32 (s, 6H); MS (ES) m/z 299 ([M+H]+).

reactant | 6-bromo-2,2,4,4-tetramethyl-1,4-dihydro-2H-3,1-benzoxazine | BrC=1C=CC2=C(C(OC(N2)(C)C)(C)C)C1 | C12H16BrNO
reactant | 4-bromo-2-cyanothiophene | BrC=1C=C(SC1)C#N | C5H2BrNS
product | 4-(2,2,4,4-Tetramethyl-1,4-dihydro-2H-3,1-benzoxazin-6yl)thiophene-2-carbonitrile | CC1(NC2=C(C(O1)(C)C)C=C(C=C2)C=2C=C(SC2)C#N)C | C17H18N2OS
